US04544751
2-Methoxyiminio-2-(1,2,3-thiadiazol-4-yl)acetic acid (anti isomer) (1.0 g.) and 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (2.16 g.) were reacted according to similar manners to those of Examples 1(b) and 8 to give pale yellow powder of 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (anti isomer) (1.68 g.), mp 104° to 115° C. (dec.).

reactant | 2-Methoxyiminio-2-(1,2,3-thiadiazol-4-yl)acetic acid | 1.0 g | CO[NH+]=C(C(=O)O)C=1N=NSC1
reactant | 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.16 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.68 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)C=1N=NSC1 | C16H15N7O5S4
